US04356313
Carrying out a reaction as described in Example 20, Step D, except that the methyl [(5,6-dichloro-9a-ethyl-3-oxo-1,2,9,9a-tetrahydro-3H-fluoren-7-yl)oxy]acetate is replaced by an equimolar quantity of ethyl [(9a-allyl-5,6-dichloro-3-oxo-1,2,9,9a-tetrahydro-3H-fluoren-7-yl)oxy]acetate, there is obtained [(9a-allyl-5,6-dichloro-3-oxo-1,2,9,9a-tetrahydro-3H-fluoren-7-yl)oxy]acetic acid.

reactant | methyl [(5,6-dichloro-9a-ethyl-3-oxo-1,2,9,9a-tetrahydro-3H-fluoren-7-yl)oxy]acetate | ClC1=C2C3=CC(CCC3(CC2=CC(=C1Cl)OCC(=O)OC)CC)=O | C18H18Cl2O4
reactant | ethyl [(9a-allyl-5,6-dichloro-3-oxo-1,2,9,9a-tetrahydro-3H-fluoren-7-yl)oxy]acetate | C(C=C)C12CC3=CC(=C(C(=C3C2=CC(CC1)=O)Cl)Cl)OCC(=O)OCC | C20H20Cl2O4
product | [(9a-allyl-5,6-dichloro-3-oxo-1,2,9,9a-tetrahydro-3H-fluoren-7-yl)oxy]acetic acid | C(C=C)C12CC3=CC(=C(C(=C3C2=CC(CC1)=O)Cl)Cl)OCC(=O)O | C18H16Cl2O4
